US07319108B2
(1-{4-[5-(4-Butoxyphenyl)-[1,3,4]thiadiazol-2-yl]phenyl}pyrrolidin-3-yl)dimethylamine
A mixture of N′-(4-butoxybenzoyl)-4-(3-dimethylaminopyrrolidin-1-yl)benzohydrazide (100 mg), Lawesson's reagent (191 mg) and toluene (5 ml) was boiled under reflux for 4 hours. Volatiles were removed, and the residue was purified by preparative HPLC. The product with the molecular weight of 422.60 (C24H30N4OS) was obtained in this way; MS (ESI): 423 (M+H+).

reactant | N′-(4-butoxybenzoyl)-4-(3-dimethylaminopyrrolidin-1-yl)benzohydrazide | 100 mg | C(CCC)OC1=CC=C(C(=O)NNC(C2=CC=C(C=C2)N2CC(CC2)N(C)C)=O)C=C1 | C24H32N4O3
reactant | Lawesson's reagent | 191 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | (1-{4-[5-(4-Butoxyphenyl)-[1,3,4]thiadiazol-2-yl]phenyl}pyrrolidin-3-yl)dimethylamine | C(CCC)OC1=CC=C(C=C1)C1=NN=C(S1)C1=CC=C(C=C1)N1CC(CC1)N(C)C | C24H30N4OS
